US07829707B2
(b) 1-(1H-Imidazol-2-ylmethyl)-2-thioxo-1,2,3,5-tetrahydro-pyrrolo[3,2-d]pyrimidin-4-one
Benzoyl isothiocyanate (0.19 mL, 1.41 mmol) was added to a stirred solution of ethyl 3-[(1H-imidazol-2-ylmethyl)amino]-1H-pyrrole-2-carboxylate (0.3 g, 1.28 mmol) in CH2Cl2 (4 mL) and methanol (2 mL) and the mixture was stirred at r.t. for 1 h. The solvent was evaporated in vacuo and the residue was dissolved in ammonia (7N in methanol, 7 mL) and heated at 80° C. for 1 h. The crude product was filtrated and purified by preparative HPLC, obtaining 0.110 g, (35%) of the title compound as a white solid.

reactant | Benzoyl isothiocyanate | 1.41 mmol, 0.19 mL | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | ethyl 3-[(1H-imidazol-2-ylmethyl)amino]-1H-pyrrole-2-carboxylate | 1.28 mmol, 0.3 g | N1C(=NC=C1)CNC1=C(NC=C1)C(=O)OCC | C11H14N4O2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 2 mL | CO | CH4O
product | 1-(1H-Imidazol-2-ylmethyl)-2-thioxo-1,2,3,5-tetrahydro-pyrrolo[3,2-d]pyrimidin-4-one | 35% | N1C(=NC=C1)CN1C(NC(C2=C1C=CN2)=O)=S | C10H9N5OS
